US07335658B2
6-[4-(2-NITROBENZOYL)PIPERAZIN-1-YL]PYRIDAZINE-3-CARBOXYLIC ACID (3-METHYLBUTYL)AMIDE
Following the procedure of Example 3, making variations only as required to use 2-nitrobenzoyl chloride in place of isoxazole-5-carbonyl chloride to react with 6-piperazin-1-yl-pyridazine-3-carboxylic acid (3-methylbutyl)amide, the title compound was obtained as a white solid (72% yield). 1H NMR (500 MHz, CDCl3) δ 8.24, 8.07, 7.84, 7.76, 7.63, 7.44, 7.01, 4.12-4.26, 3.75-3.95, 3.50, 3.41, 1.65-1.76, 1.52, 0.94. MS (ES+) m/z 427 (M+1).

reactant | 2-nitrobenzoyl chloride | [N+](=O)([O-])C1=C(C(=O)Cl)C=CC=C1 | C7H4ClNO3
reactant | 6-piperazin-1-yl-pyridazine-3-carboxylic acid (3-methylbutyl)amide | CC(CCNC(=O)C=1N=NC(=CC1)N1CCNCC1)C | C14H23N5O
product | 6-[4-(2-NITROBENZOYL)PIPERAZIN-1-YL]PYRIDAZINE-3-CARBOXYLIC ACID (3-METHYLBUTYL)AMIDE | CC(CCNC(=O)C=1N=NC(=CC1)N1CCN(CC1)C(C1=C(C=CC=C1)[N+](=O)[O-])=O)C | C21H26N6O4
